US06172228B2
1-[(4-Chlorophenyl)phenylmethyl]piperazine (573.6 mg, 2.00 mmol) and N-(3-hydroxypropyl)-5-chloropentanesulfonamide (487.5 mg, 2.00 mmol) were refluxed in N-ethyldiisopropylamine (2 ml) for 6 hours. The reaction mixture was concentrated in vacuo, and water was added thereto. The mixture was extracted with chloroform. The chloroform layer was washed with water, and dried over anhydrous magnesium sulfate. Subsequently, the solvent was removed by evaporation in vacuo. The resulting crude product was purified by column chromatography on silica gel with chloroform-methanol (20:1), to give N-(3-hydroxypropyl)-5-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]pentanesulfonamide (940.0 mg) as a pale yellow oil (yield: 95.1%).

reactant | 1-[(4-Chlorophenyl)phenylmethyl]piperazine | 2.00 mmol, 573.6 mg | ClC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H19ClN2
reactant | N-(3-hydroxypropyl)-5-chloropentanesulfonamide | 2.00 mmol, 487.5 mg | OCCCNS(=O)(=O)CCCCCCl | C8H18ClNO3S
solvent | N-ethyldiisopropylamine | 2 ml | C(C)N(C(C)C)C(C)C | C8H19N
product | N-(3-hydroxypropyl)-5-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]pentanesulfonamide | 940.0 mg, yield: 95.1% | OCCCNS(=O)(=O)CCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C25H36ClN3O3S
